US04532255
To 70 ml of dried pyridine, were added 2.9 g of 3-dimethylaminobenzoic acid and 4.4 g of DCC. The mixture was stirred for 30 minutes while cooling in ice. After addition of 5.0 g of 6-amidino-2-naphthol methanesulfonate, the mixture was further stirred for one hour under cooling in ice and then overnight at room temperature. The reaction mixture was filtered and the filtrate was mixed with ethyl ether. The precipitate which was formed was collected by filtration, dissolved in a small quantity of methanol, and added to a saturated aqueous sodium hydrogencarbonate solution while being stirred. The precipitated crystals were collected by filtration to obtain 3.8 g of 6-amidino-2-naphthyl 3-dimethylaminobenzoate carbonate having a melting point of above 120° C. (decomp.). The crystals were suspended in ethanol, mixed with 1.4 g of acetic acid and stirred to form a clear solution from which crystals were precipitated after some time. The crystals were collected by filtration and recrystallized from ethanol to obtain 2.5 g of a white powder of 6-amidino-2-naphthyl 3-dimethylaminobenzoate acetate.

reactant | 3-dimethylaminobenzoic acid | 2.9 g | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 3-dimethylaminobenzoate carbonate | 3.8 g | C(O)(O)=O.CN(C=1C=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=CC1)C | InChI=1S/C20H19N3O2.CH2O3/c1-23(2)17-5-3-4-16(11-17)20(24)25-18-9-8-13-10-15(19(21)22)7-6-14(13)12-18;2-1(3)4/h3-12H,1-2H3,(H3,21,22);(H2,2,3,4)
